* File: G2_OAI21_N3.pex.netlist.pex
* Created: Wed Mar  2 11:39:40 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_OAI21_N3_VSS 2 4 6 8 10 22 29 37 42 45 50 55 64 73 74 78 84 86 91
+ 94 Vss
c48 92 Vss 5.73928e-19
c49 91 Vss 0.00930467f
c50 86 Vss 0.00178323f
c51 84 Vss 0.00287693f
c52 79 Vss 0.00137325f
c53 78 Vss 0.00727688f
c54 74 Vss 6.08576e-19
c55 73 Vss 0.00762928f
c56 64 Vss 0.00685524f
c57 55 Vss 2.01979e-19
c58 50 Vss 0.00208662f
c59 45 Vss 0.00137663f
c60 42 Vss 0.00818763f
c61 37 Vss 0.00963114f
c62 33 Vss 0.0307825f
c63 29 Vss 5.22622e-20
c64 26 Vss 0.101261f
c65 22 Vss 0.0345879f
c66 21 Vss 0.0712517f
c67 10 Vss 0.191158f
c68 8 Vss 0.19018f
c69 4 Vss 0.189789f
r70 91 94 0.326018
r71 90 91 18.8387
r72 86 90 0.655813
r73 85 92 0.494161
r74 84 94 0.326018
r75 84 85 4.33457
r76 80 92 0.128424
r77 78 92 0.494161
r78 78 79 10.1696
r79 73 79 0.652036
r80 72 74 0.655813
r81 72 73 18.8387
r82 55 86 1.82344
r83 50 64 1.16709
r84 50 80 2.16729
r85 45 74 1.82344
r86 42 55 1.16709
r87 37 45 1.16709
r88 29 64 0.238214
r89 27 33 0.494161
r90 27 29 1.5171
r91 26 30 0.652036
r92 26 29 1.4004
r93 23 33 0.128424
r94 21 33 0.494161
r95 21 22 2.8008
r96 18 22 0.652036
r97 10 30 5.1348
r98 8 23 5.1348
r99 6 42 0.123773
r100 4 18 5.1348
r101 2 37 0.123773
.ends

.subckt PM_G2_OAI21_N3_VDD 2 4 6 8 30 35 38 39 41 43 49 51 56 59 65 Vss
c48 65 Vss 0.00671256f
c49 57 Vss 5.35171e-19
c50 56 Vss 0.0125966f
c51 55 Vss 0.0017875f
c52 51 Vss 0.00240793f
c53 49 Vss 0.00382188f
c54 47 Vss 0.00183797f
c55 43 Vss 0.00172744f
c56 41 Vss 8.2329e-19
c57 40 Vss 0.0017875f
c58 39 Vss 0.00981811f
c59 38 Vss 0.0129397f
c60 35 Vss 0.00815963f
c61 30 Vss 0.0082356f
c62 25 Vss 0.0855608f
c63 19 Vss 0.034095f
c64 18 Vss 0.0688526f
c65 6 Vss 0.192138f
c66 2 Vss 0.192543f
r67 55 59 0.326018
r68 55 56 18.8804
r69 51 56 0.655813
r70 51 53 1.82344
r71 50 57 0.494161
r72 49 59 0.326018
r73 49 50 4.37625
r74 47 65 1.16709
r75 45 57 0.128424
r76 45 47 2.20896
r77 41 43 1.82344
r78 39 57 0.494161
r79 39 40 10.1279
r80 38 41 0.655813
r81 37 40 0.652036
r82 37 38 18.8804
r83 35 53 1.16709
r84 30 43 1.16709
r85 25 65 0.238214
r86 23 25 2.04225
r87 20 23 0.0685365
r88 18 23 0.5835
r89 18 19 2.8008
r90 15 19 0.652036
r91 8 35 0.123773
r92 6 20 5.1348
r93 4 30 0.123773
r94 2 15 5.1348
.ends

.subckt PM_G2_OAI21_N3_B 2 4 13 18 21 26 31 Vss
c19 31 Vss 0.00415668f
c20 26 Vss 0.0032846f
c21 18 Vss 9.6577e-19
c22 13 Vss 0.167996f
c23 2 Vss 0.166757f
r24 23 31 1.16709
r25 21 23 1.66714
r26 18 26 1.16709
r27 18 21 3.16757
r28 13 31 0.476429
r29 10 26 0.50025
r30 4 13 4.4346
r31 2 10 4.37625
.ends

.subckt PM_G2_OAI21_N3_A 2 4 13 18 21 26 31 36 44 46 Vss
c38 46 Vss 1.44014e-19
c39 36 Vss 0.00294987f
c40 31 Vss 0.00806931f
c41 26 Vss 0.0038514f
c42 21 Vss 0.00314266f
c43 18 Vss 0.0859029f
c44 13 Vss 4.64808e-20
c45 4 Vss 0.166608f
c46 2 Vss 0.193159f
r47 40 46 0.655813
r48 26 36 1.16709
r49 26 46 4.52212
r50 21 31 1.16709
r51 21 44 0.0833571
r52 21 40 12.6703
r53 18 31 0.238214
r54 15 18 1.92555
r55 13 36 0.50025
r56 7 15 0.0685365
r57 4 13 4.37625
r58 2 7 5.1348
.ends

.subckt PM_G2_OAI21_N3_Z 2 4 6 8 23 27 30 33 Vss
c33 30 Vss 0.0016158f
c34 27 Vss 0.00640524f
c35 23 Vss 0.00630974f
c36 8 Vss 0.00143493f
c37 6 Vss 0.00143493f
r38 33 35 7.54382
r39 30 33 5.29318
r40 27 35 1.16709
r41 23 30 1.16709
r42 8 27 0.123773
r43 6 23 0.123773
r44 4 27 0.123773
r45 2 23 0.123773
.ends

.subckt PM_G2_OAI21_N3_C 2 4 6 13 14 17 24 27 Vss
c28 27 Vss 7.80628e-19
c29 24 Vss 0.0813012f
c30 17 Vss 0.25734f
c31 14 Vss 0.0348849f
c32 13 Vss 0.247183f
c33 4 Vss 0.29011f
c34 2 Vss 0.290309f
r35 27 30 0.0833571
r36 23 24 2.04225
r37 20 24 0.0685365
r38 17 30 1.16709
r39 15 23 0.0685365
r40 15 17 2.8008
r41 13 23 0.5835
r42 13 14 8.92755
r43 10 14 0.652036
r44 6 17 5.6016
r45 4 20 8.4024
r46 2 10 8.4024
.ends

