* File: G2_OAI21_N1.pex.netlist.pex
* Created: Wed Feb 23 15:42:41 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_OAI21_N1_VSS 2 4 6 8 10 22 29 45 50 55 64 73 74 78 84 86 91 94 Vss
c49 92 Vss 5.73928e-19
c50 91 Vss 0.00675279f
c51 86 Vss 0.00175471f
c52 84 Vss 0.00280649f
c53 79 Vss 0.00136179f
c54 78 Vss 0.00706512f
c55 74 Vss 6.45375e-19
c56 73 Vss 0.00483551f
c57 64 Vss 0.00536833f
c58 55 Vss 1.70165e-19
c59 50 Vss 0.00185649f
c60 45 Vss 0.0012795f
c61 33 Vss 0.0307391f
c62 29 Vss 7.39492e-20
c63 26 Vss 0.101218f
c64 22 Vss 0.0345446f
c65 21 Vss 0.0712517f
c66 10 Vss 0.0820743f
c67 8 Vss 0.0810902f
c68 6 Vss 0.00226958f
c69 4 Vss 0.0806996f
c70 2 Vss 0.00266945f
r71 91 94 0.326018
r72 90 91 13.3371
r73 86 90 0.655813
r74 85 92 0.494161
r75 84 94 0.326018
r76 84 85 4.33457
r77 80 92 0.128424
r78 78 92 0.494161
r79 78 79 10.1696
r80 73 79 0.652036
r81 72 74 0.655813
r82 72 73 13.3371
r83 55 86 1.82344
r84 50 64 1.16709
r85 50 80 2.16729
r86 45 74 1.82344
r87 29 64 0.238214
r88 27 33 0.494161
r89 27 29 1.5171
r90 26 30 0.652036
r91 26 29 1.4004
r92 23 33 0.128424
r93 21 33 0.494161
r94 21 22 2.8008
r95 18 22 0.652036
r96 10 30 2.5674
r97 8 23 2.5674
r98 6 55 1.16709
r99 4 18 2.5674
r100 2 45 1.16709
.ends

.subckt PM_G2_OAI21_N1_VDD 2 4 6 8 38 39 41 43 47 49 51 56 59 65 Vss
c51 65 Vss 0.00591189f
c52 57 Vss 5.34798e-19
c53 56 Vss 0.00857327f
c54 51 Vss 0.00150304f
c55 49 Vss 0.00549985f
c56 47 Vss 0.00136862f
c57 43 Vss 0.00161014f
c58 41 Vss 7.26487e-19
c59 40 Vss 0.00177073f
c60 39 Vss 0.00917963f
c61 38 Vss 0.00784728f
c62 25 Vss 0.085695f
c63 19 Vss 0.0340946f
c64 18 Vss 0.0688517f
c65 8 Vss 0.00226556f
c66 6 Vss 0.0830486f
c67 4 Vss 0.00236553f
c68 2 Vss 0.0834535f
r69 56 59 0.349767
r70 55 56 13.3371
r71 51 59 0.306046
r72 51 53 1.82344
r73 50 57 0.494161
r74 49 55 0.652036
r75 49 50 4.37625
r76 47 65 1.16709
r77 45 57 0.128424
r78 45 47 2.16729
r79 41 43 1.82344
r80 39 57 0.494161
r81 39 40 10.1279
r82 38 41 0.655813
r83 37 40 0.652036
r84 37 38 13.3371
r85 25 65 0.238214
r86 23 25 2.04225
r87 20 23 0.0685365
r88 18 23 0.5835
r89 18 19 2.8008
r90 15 19 0.652036
r91 8 53 1.16709
r92 6 20 2.5674
r93 4 43 1.16709
r94 2 15 2.5674
.ends

.subckt PM_G2_OAI21_N1_B 2 4 10 13 18 21 26 31 Vss
c23 31 Vss 0.00366366f
c24 26 Vss 0.00309808f
c25 18 Vss 6.90549e-19
c26 13 Vss 0.0578401f
c27 2 Vss 0.0576308f
r28 23 31 1.16709
r29 21 23 1.95889
r30 18 26 1.16709
r31 18 21 2.87582
r32 13 31 0.50025
r33 10 26 0.50025
r34 4 13 1.80885
r35 2 10 1.80885
.ends

.subckt PM_G2_OAI21_N1_A 2 4 13 18 26 31 36 43 45 Vss
c43 43 Vss 0.0016451f
c44 36 Vss 0.00277103f
c45 31 Vss 0.00697771f
c46 26 Vss 0.00360766f
c47 18 Vss 0.0860562f
c48 13 Vss 6.71834e-20
c49 4 Vss 0.0575023f
c50 2 Vss 0.0840749f
r51 40 45 0.655813
r52 40 43 9.00257
r53 31 43 1.16709
r54 26 36 1.16709
r55 26 45 4.52212
r56 18 31 0.238214
r57 15 18 1.92555
r58 13 36 0.50025
r59 7 15 0.0685365
r60 4 13 1.80885
r61 2 7 2.5674
.ends

.subckt PM_G2_OAI21_N1_Z 2 4 30 33 Vss
c30 30 Vss 0.00127106f
c31 4 Vss 0.00153036f
c32 2 Vss 0.00148239f
r33 33 35 5.62661
r34 30 33 3.54268
r35 4 35 1.16709
r36 2 30 1.16709
.ends

.subckt PM_G2_OAI21_N1_C 2 4 6 13 14 17 24 27 30 Vss
c30 27 Vss 4.95129e-19
c31 24 Vss 0.0812483f
c32 17 Vss 0.147907f
c33 14 Vss 0.0348316f
c34 13 Vss 0.245605f
c35 4 Vss 0.18102f
c36 2 Vss 0.181207f
r37 27 30 0.0833571
r38 23 24 2.04225
r39 20 24 0.0685365
r40 17 27 1.16709
r41 15 23 0.0685365
r42 15 17 2.8008
r43 13 23 0.5835
r44 13 14 8.92755
r45 10 14 0.652036
r46 6 17 3.0342
r47 4 20 5.835
r48 2 10 5.835
.ends

