* File: G3_OR2_N2.pex.netlist.pex
* Created: Tue Mar  1 12:00:05 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_OR2_N2_VSS 2 4 6 8 10 12 28 29 38 44 49 52 57 62 67 76 85 90 91 93
+ 97 98 103 109 115 116 Vss
c69 116 Vss 3.88979e-19
c70 115 Vss 3.75522e-19
c71 109 Vss 0.00356171f
c72 103 Vss 0.00288176f
c73 98 Vss 8.31407e-19
c74 97 Vss 0.0017807f
c75 91 Vss 6.38539e-19
c76 90 Vss 0.00489715f
c77 85 Vss 0.00399322f
c78 76 Vss 0.00493786f
c79 67 Vss 5.89061e-19
c80 62 Vss 7.90818e-19
c81 57 Vss 8.66334e-19
c82 52 Vss 0.00128155f
c83 49 Vss 0.00709351f
c84 44 Vss 0.00389355f
c85 38 Vss 0.0895618f
c86 29 Vss 0.0349332f
c87 28 Vss 0.0997249f
c88 12 Vss 0.134814f
c89 10 Vss 0.13405f
c90 8 Vss 0.00143442f
c91 4 Vss 0.134687f
r92 110 116 0.494161
r93 109 111 0.652036
r94 109 110 7.46046
r95 105 116 0.128424
r96 104 115 0.494161
r97 103 116 0.494161
r98 103 104 7.46046
r99 99 115 0.128424
r100 97 115 0.494161
r101 97 98 4.37625
r102 91 93 0.765844
r103 90 98 0.652036
r104 89 91 0.655813
r105 89 90 15.5878
r106 67 85 1.16709
r107 67 111 2.16729
r108 62 105 5.2515
r109 57 76 1.16709
r110 57 99 2.16729
r111 52 93 1.05759
r112 49 62 1.16709
r113 44 52 1.16709
r114 36 76 0.0476429
r115 36 38 2.04225
r116 31 85 0.0476429
r117 29 31 1.45875
r118 28 32 0.652036
r119 28 31 1.45875
r120 25 29 0.652036
r121 22 38 0.0685365
r122 12 32 3.8511
r123 10 25 3.8511
r124 8 49 0.185659
r125 6 49 0.185659
r126 4 22 3.8511
r127 2 44 0.185659
.ends

.subckt PM_G3_OR2_N2_VDD 2 4 6 8 10 12 14 16 37 46 56 62 67 70 72 73 77 79 80 83
+ 87 89 93 95 97 102 104 105 106 107 113 119 124 Vss
c78 124 Vss 0.00436477f
c79 119 Vss 0.00478009f
c80 113 Vss 0.00477414f
c81 107 Vss 2.39889e-19
c82 106 Vss 2.39889e-19
c83 105 Vss 4.52364e-19
c84 102 Vss 0.00334204f
c85 97 Vss 0.00329381f
c86 95 Vss 0.00842218f
c87 93 Vss 5.48147e-19
c88 89 Vss 0.00206676f
c89 87 Vss 4.88586e-19
c90 83 Vss 0.00135406f
c91 80 Vss 8.68155e-19
c92 79 Vss 0.00563376f
c93 77 Vss 0.0017975f
c94 73 Vss 0.0049339f
c95 72 Vss 0.00221679f
c96 70 Vss 0.00947695f
c97 69 Vss 0.00174028f
c98 67 Vss 0.00532741f
c99 62 Vss 0.00393183f
c100 57 Vss 0.129157f
c101 56 Vss 9.10906e-20
c102 47 Vss 0.0358563f
c103 46 Vss 0.101295f
c104 37 Vss 0.035607f
c105 36 Vss 0.101546f
c106 14 Vss 0.134527f
c107 12 Vss 0.134502f
c108 10 Vss 0.13477f
c109 8 Vss 0.134351f
c110 4 Vss 0.136655f
c111 2 Vss 0.137748f
r112 113 116 0.05
r113 101 102 4.58464
r114 97 101 0.655813
r115 97 99 1.82344
r116 96 107 0.494161
r117 95 102 0.652036
r118 95 96 10.1279
r119 93 124 1.16709
r120 91 107 0.128424
r121 91 93 2.16729
r122 90 106 0.494161
r123 89 107 0.494161
r124 89 90 4.54296
r125 87 119 1.16709
r126 85 106 0.128424
r127 85 87 2.16729
r128 83 116 1.16709
r129 81 83 2.16729
r130 79 106 0.494161
r131 79 80 10.1696
r132 75 105 0.0828784
r133 75 77 1.82344
r134 74 104 0.326018
r135 73 81 0.652036
r136 73 74 4.37625
r137 72 80 0.652036
r138 71 105 0.551426
r139 71 72 4.58464
r140 70 105 0.551426
r141 69 104 0.326018
r142 69 70 15.5461
r143 67 99 1.16709
r144 62 77 1.16709
r145 56 113 0.0238214
r146 56 57 2.26917
r147 53 56 2.26917
r148 49 124 0.0476429
r149 47 49 1.45875
r150 46 50 0.652036
r151 46 49 1.45875
r152 43 47 0.652036
r153 39 119 0.0476429
r154 37 39 1.5171
r155 36 40 0.652036
r156 36 39 1.4004
r157 33 37 0.652036
r158 30 57 0.00605528
r159 27 53 0.00605528
r160 16 67 0.185659
r161 14 43 3.8511
r162 12 50 3.8511
r163 10 40 3.8511
r164 8 33 3.8511
r165 6 62 0.185659
r166 4 27 3.8511
r167 2 30 3.8511
.ends

.subckt PM_G3_OR2_N2_B 2 4 10 13 18 21 26 31 Vss
c21 31 Vss 0.00178268f
c22 26 Vss 0.00362926f
c23 18 Vss 9.47382e-19
c24 13 Vss 0.112032f
c25 10 Vss 1.01848e-19
c26 2 Vss 0.112208f
r27 23 31 1.16709
r28 21 23 2.20896
r29 18 26 1.16709
r30 18 21 2.62575
r31 13 31 0.50025
r32 10 26 0.50025
r33 4 13 3.09255
r34 2 10 3.09255
.ends

.subckt PM_G3_OR2_N2_NET21 2 4 6 8 10 24 27 38 42 45 53 66 70 Vss
c39 70 Vss 0.00743392f
c40 66 Vss 0.0057739f
c41 53 Vss 0.00155523f
c42 45 Vss 0.00308587f
c43 42 Vss 0.00569159f
c44 38 Vss 0.00386958f
c45 27 Vss 1.05421e-19
c46 24 Vss 0.225855f
c47 21 Vss 0.125908f
c48 19 Vss 0.0247918f
c49 10 Vss 0.139046f
c50 6 Vss 0.00143442f
r51 70 74 0.655813
r52 53 66 1.16709
r53 53 74 2.08393
r54 48 70 7.03847
r55 48 50 5.835
r56 45 48 5.16814
r57 42 50 1.16709
r58 38 45 1.16709
r59 27 66 0.0476429
r60 25 27 0.326018
r61 25 27 0.1167
r62 24 28 0.652036
r63 24 27 6.7686
r64 21 66 0.357321
r65 19 27 0.326018
r66 19 21 0.40845
r67 10 28 3.8511
r68 8 21 3.44265
r69 6 42 0.185659
r70 4 42 0.185659
r71 2 38 0.185659
.ends

.subckt PM_G3_OR2_N2_A 2 4 10 11 14 18 21 Vss
c21 18 Vss 3.18373e-19
c22 14 Vss 0.170625f
c23 11 Vss 0.0348505f
c24 10 Vss 0.277805f
c25 2 Vss 0.198918f
r26 18 27 1.16709
r27 18 21 0.0833571
r28 14 27 0.05
r29 12 14 1.6338
r30 10 12 0.652036
r31 10 11 8.92755
r32 7 11 0.652036
r33 4 14 4.3179
r34 2 7 5.9517
.ends

.subckt PM_G3_OR2_N2_Z 2 4 13 16 19 Vss
c12 13 Vss 0.00522942f
c13 4 Vss 0.00143442f
r14 16 19 0.0353636
r15 13 19 1.16709
r16 4 13 0.185659
r17 2 13 0.185659
.ends

